US07465815B2
(2,2,4,5,7-Pentamethyl-3-oxo-2,3-dihydro-1-benzofuran-6-yl)formamide
A mixture of formic acid (5 mL) with 6-amino-2,2,4,5,7-pentamethyl-1-benzofuran-3 (2H)-one (700 mg, 3.19 mmol) obtained in Reference Example 72, was heated under reflux for 5 hours. The solvent was distilled off under reduced pressure, water and ethyl acetate were added to the residue, and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and a saturated sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained residue was crystallized from hexane-ethyl acetate to obtain 640 mg (yield 81%) of the title compound. Melting point: 191-192° C.

reactant | 6-amino-2,2,4,5,7-pentamethyl-1-benzofuran-3 (2H)-one | 3.19 mmol, 700 mg | NC1=C(C2=C(C(C(O2)(C)C)=O)C(=C1C)C)C | C13H17NO2
reactant | formic acid | 5 mL | C(=O)O | CH2O2
product | (2,2,4,5,7-Pentamethyl-3-oxo-2,3-dihydro-1-benzofuran-6-yl)formamide | 640 mg, yield 81% | CC1(OC2=C(C1=O)C(=C(C(=C2C)NC=O)C)C)C | C14H17NO3
